US04767777
(D) 1-(1H-1,2,4-Triazol-1-yl)cyclopropyl 2,4-dichlorophenyl ketone
2',4'-Dichloro-2-(1H-1,2,4-triazol-1-yl)prop-2-enophenone (0.27 g, 1.0 mMole) was added dropwise in 1,1,1-trichloroethane (2 ml) to a refluxing mixture of trimethylsulphoxonium iodide (0.33 g, 1.5 mMole), cetrimide (0.03 g), 1,1,1-trichloroethane (5 ml) and aqueous 2N sodium hydroxide (3 ml) with vigorous stirring over 2 minutes. After refluxing for a further 15 minutes the organic phase, after cooling was separated. Evaporation gave a gum, weight 0.11 g.

reactant | 2',4'-Dichloro-2-(1H-1,2,4-triazol-1-yl)prop-2-enophenone | 1.0 mMole, 0.27 g | ClC1=C(C=CC(=C1)Cl)C(C(=C)N1N=CN=C1)=O | C11H7Cl2N3O
reactant | trimethylsulphoxonium iodide | 1.5 mMole, 0.33 g | [I-].C[S+](=O)(C)C
reactant | cetrimide | 0.03 g | CCCCCCCCCCCCCC[N+](C)(C)C
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
solvent | 1,1,1-trichloroethane | 2 ml | ClC(C)(Cl)Cl | C2H3Cl3
solvent | 1,1,1-trichloroethane | 5 ml | ClC(C)(Cl)Cl | C2H3Cl3
product | 1-(1H-1,2,4-Triazol-1-yl)cyclopropyl 2,4-dichlorophenyl ketone | ClC1=C(C=CC(=C1)Cl)C(=O)C1(CC1)N1N=CN=C1 | C12H9Cl2N3O
